US06982274B2
(5-Bromo-2-fluoro-4-methoxy-phenyl)-(3-fluoro-phenyl)-methanone
A total of 716 mg of aluminium chloride was suspended in 24.4 ml of dichloromethane and was then mixed with 0.65 ml of 3-fluorobenzoyl chloride and 1 g of 1-bromo-4-fluoro-2-methoxy-benzene obtained in Production Example II-1-a under stirring at −60° C. The mixture was raised in temperature to room temperature over 2.5 hours and was stirred for further 3 hours. Water was added to the reaction mixture under ice-cooling, followed by extracting with diethyl ether. The resulting organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:10), to give 856 mg of the title compound as white crystals.

reactant | aluminium chloride | 716 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-fluorobenzoyl chloride | 0.65 ml | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 1-bromo-4-fluoro-2-methoxy-benzene | 1 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | Water | O | H2O
solvent | dichloromethane | 24.4 ml | ClCCl | CH2Cl2
product | (5-Bromo-2-fluoro-4-methoxy-phenyl)-(3-fluoro-phenyl)-methanone | 856 mg | BrC=1C(=CC(=C(C1)C(=O)C1=CC(=CC=C1)F)F)OC | C14H9BrF2O2
